US07960409B2
Step 3: 7-methylquinoline-2-carbonitrile 1-oxide
To a solution of 7-methylquinoline-2-carbonitrile (14.2 g, 84 mmol) in dichloromethane (400 mL) was added 3-chloroperoxybenzoic acid (50%, 36.4 g, 106 mmol) and stirred at room temperature overnight. Solid calcium hydroxide (7.8 g, 106 mmol) was added and 15 min later the mixture was filtered through celite, rinsed with dichloromethane and the liquors evaporated to dryness to give the crude compound. The compound was purified by flash chromatography on silica gel (eluting with 5% acetone in dichloromethane) to afford the title compound. 1H NMR (400 MHz, acetone-d6): δ 8.40 (s, 1H), 8.05 (d, 1H), 7.97 (d, 1H), 7.75 (m, 2H), 2.65 (s, 3H).

reactant | 7-methylquinoline-2-carbonitrile | 84 mmol, 14.2 g | CC1=CC=C2C=CC(=NC2=C1)C#N | C11H8N2
reactant | 3-chloroperoxybenzoic acid | 106 mmol, 36.4 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | calcium hydroxide | 106 mmol, 7.8 g | [OH-].[Ca+2].[OH-]
solvent | dichloromethane | 400 mL | ClCCl | CH2Cl2
product | 7-methylquinoline-2-carbonitrile 1-oxide | CC=1C=CC2=CC=C([N+](=C2C1)[O-])C#N | C11H8N2O
